US03998959
Preparation of 3-(4,5,6,7-Tetrahydro-7-methoxybenzo[b]thien-4-yl)-1-methylurea
Crude 4,5,6,7-tetrahydro-7-methoxybenzo[b]thiophen-4-amine (2.3 g, 12.57 mm) is dissolved in ether (50 ml) and the stirred solution treated with a solution of methyl isocyanate (2.9 ml) in ether (10 ml), added over a period of 20 minutes. After stirring overnight the product is filtered off, washed twice with ether (50 ml total) and air dried to afford the title compound (2.25 g, 75% Y) m.p. 152° C-159° C. The analytical sample is recrystallized from acetone and has m.p. 164° C-166° C.

reactant | 4,5,6,7-tetrahydro-7-methoxybenzo[b]thiophen-4-amine | 2.3 g | COC1CCC(C2=C1SC=C2)N | C9H13NOS
reactant | methyl isocyanate | 2.9 ml | CN=C=O | C2H3NO
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 3-(4,5,6,7-Tetrahydro-7-methoxybenzo[b]thien-4-yl)-1-methylurea | 2.25 g, 75% | COC1CCC(C2=C1SC=C2)NC(NC)=O | C11H16N2O2S
